US07067517B2
Methyl-phenyl-carbamic acid 4-acetyl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-4-acetylpyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (89%, oil).

reactant | 1-hydroxy-4-acetylpyrazole | ON1N=CC(=C1)C(C)=O | C5H6N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-acetyl-pyrazol-1-yl ester | C(C)(=O)C=1C=NN(C1)OC(N(C1=CC=CC=C1)C)=O | C13H13N3O3
